US04313949
2-Amino-3-(4-fluorobenzoyl)-phenylacetamide
A solution of 24.2 g (0.07 mole) of 2-amino-3-(4-fluorobenzoyl)-α-(n-propylthio)phenylacetamide in 300 ml of tetrahydrofuran was treated with 250 g of wet Raney nickel (washed 3 times with water and 3 times with tetrahydrofuran). The mixture was stirred for one hour and filtered. The filtrate was concentrated under vacuum and the residue was recrystallized from 95% ethyl alcohol to give 14.8 g (78%) of yellow needles melting at 184°-186° C.

reactant | 2-amino-3-(4-fluorobenzoyl)-α-(n-propylthio)phenylacetamide | 0.07 mole, 24.2 g | NC1=C(C=CC=C1C(C1=CC=C(C=C1)F)=O)C(C(=O)N)SCCC | C18H19FN2O2S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 250 g | [Ni] | Ni
product | 2-Amino-3-(4-fluorobenzoyl)-phenylacetamide | 14.8 g, 78% | NC1=C(C=CC=C1C(C1=CC=C(C=C1)F)=O)CC(=O)N | C15H13FN2O2
